US08217066B2
Step 1: Methanesulfonic acid 2-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-ethyl ester:
To a solution of 2-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-ethanol (0.100 g, 0.35 mmol) and triethylamine (0.10 mL, 0.71 mmol) in THF at 0° C. was added methanesulfonyl chloride (0.05 mL, 0.62 mmol) and the reaction stirred at 0° C. for 1 hour. The mixture was diluted with H2O and extracted with EtOAc, and the combined organic layers were washed with H2O, saturated aqueous NaHCO3, and brine. Dried over MgSO4, filtered, and concentrated to give the title compound.

reactant | 2-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-ethanol | 0.35 mmol, 0.100 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)CCO | C12H12BrNO2
reactant | triethylamine | 0.71 mmol, 0.10 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.62 mmol, 0.05 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | Methanesulfonic acid 2-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-ethyl ester | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)CCOS(=O)(=O)C | C13H14BrNO4S
